US07504408B2
4-{3-[(4-{[5-bromo-7-(3-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]amino}-6-methoxyquinazolin-7-yl)oxy]propyl}-1-methylpiperazin-2-one
A solution of sodium bis(trimethylsilyl)amide (1.4 ml) in tetrahydrofuran (1.0M, 1.4 mmol) was added dropwise to an ice-cold solution of 5-bromo-7-(3-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-amine (0.208 g, 0.70 mmol) and 4-chloro-7-(3-chloropropoxy)-6-methoxyquinazoline (0.201 g, 0.70 mmol) in dimethylformamide (10 ml). The mixture was allowed to warm to room temperature over 2 hours and then stirred at room temperature overnight. A saturated solution of ammonium chloride (25 ml) was added and the mixture was then extracted with ethyl acetate (25 ml). The organic layer was separated, washed with a saturated solution of sodium chloride (25 ml), dried over magnesium sulfate and evaporated under reduced pressure to leave a brown oil. Flash chromatography on silica eluting with a 1:1 to 3:1 mixture of ethyl acetate and iso-hexane gave the product as a brown gum (0.245 g).

reactant | sodium bis(trimethylsilyl)amide | 1.4 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tetrahydrofuran | 1.4 mmol, 1.0M | O1CCCC1 | C4H8O
reactant | 5-bromo-7-(3-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-amine | 0.70 mmol, 0.208 g | BrC1=C(C2=C(OCO2)C(=C1)C#CC(C)OC)N | C12H12BrNO3
reactant | 4-chloro-7-(3-chloropropoxy)-6-methoxyquinazoline | 0.70 mmol, 0.201 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCCl | C12H12Cl2N2O2
reactant | ammonium chloride | 25 ml | [Cl-].[NH4+]
reactant | iso-hexane | CCCC(C)C | C6H14
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-{3-[(4-{[5-bromo-7-(3-methoxybut-1-yn-1-yl)-1,3-benzodioxol-4-yl]amino}-6-methoxyquinazolin-7-yl)oxy]propyl}-1-methylpiperazin-2-one | 0.245 g | BrC1=C(C2=C(OCO2)C(=C1)C#CC(C)OC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CC(N(CC1)C)=O | C29H32BrN5O6
